US08048881B2
17.1. 4-{(S)-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-4-ethoxycarbonylmethoxy-butyryl}-piperazine-1-carboxylic acid ethyl ester
4-{(S)-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-4-hydroxy-butyryl}-piperazine-1-carboxylic acid ethyl ester (16.8 mg) was dissolved in THF (1 ml) under argon and cooled to 0° C. A solution of potassium bis-(trimethylsilyl)-amide (0.5 M in toluene, 8 μl) and, 5 min later, ethylbromoacetate (5 μl) were added. The mixture was stirred at 0° C. for 1 h and evaporated off. The residue was taken up in water and extracted twice with EA. The org. layers were washed with water, a NaCl solution, dried (Na2SO4) and evaporated off to give 19 mg of the desired compound.

reactant | 4-{(S)-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-4-hydroxy-butyryl}-piperazine-1-carboxylic acid ethyl ester | 16.8 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCO)NC(=O)C1=NC(=NC(=C1)OC1CCCC1)C1=CC=CC=C1)=O | C27H35N5O6
reactant | potassium bis-(trimethylsilyl)-amide | 0.5 M, 8 μl | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | ethylbromoacetate | 5 μl | C(C)OC(CBr)=O | C4H7BrO2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4-{(S)-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-4-ethoxycarbonylmethoxy-butyryl}-piperazine-1-carboxylic acid ethyl ester | 19 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCOCC(=O)OCC)NC(=O)C1=NC(=NC(=C1)OC1CCCC1)C1=CC=CC=C1)=O | C31H41N5O8
